US07501413B2
Step 4: (1SR,2RS,3SR)-2-(4-chloro-phenylcarbamoyl)-3-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-cyclopropanecarboxylic acid ethyl ester
A solution of 7 g (34 mmol) of 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (prepared according to C. F. Bigge et al., patent application WO 2003045912) in 25 ml of THF was cooled to −78° C. and treated dropwise with 41 ml of a 1M lithium bis(trimethylsilyl)amide-solution in THF and stirred for 30 min. To this solution 9.5 g (32 mmol) of (1RS, 5SR, 6R)-3-(4-chloro-phenyl)-2,4-dioxo-3-aza-bicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester were added portionwise and the mixture was allowed to reach room temperature within a few hours. The mixture was then poured into a diluted aqueous HCl-solution (ca. 0.2 M) and extracted with AcOEt. The combined organic phases were dried with Na2SO4. Evaporation of the solvent and chromatography on silica gel with dichloromethane and then with a gradient of dichloromethane/MeOH from 98:2 to 95:5 gave 4.1 g (24%) of the title compound. Light brown solid. MS: 496 (M−H)−.

reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | 34 mmol, 7 g | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
reactant | lithium bis(trimethylsilyl)amide | 1M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-(4-chloro-phenyl)-2,4-dioxo-3-aza-bicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester | C(C)OC(=O)C1C2C(N(C(C12)=O)C1=CC=C(C=C1)Cl)=O | C14H12ClNO4
reactant | HCl | ca. 0.2 M | Cl | ClH
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | (1SR,2RS,3SR)-2-(4-chloro-phenylcarbamoyl)-3-[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-cyclopropanecarboxylic acid ethyl ester | 4.1 g, 24% | C(C)OC(=O)C1C(C1C(NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F)=O)C(NC1=CC=C(C=C1)Cl)=O | C25H21ClFN3O5
